US03962262
Step B: Preparation of 2-Amino-5,7-di(pentafluoroethyl)-1,8-naphthyridine
A mixture of 2,6-diamino pyridine (5.2 g., 4.76 mmole), 1,1,1,2,2,6,6,7,7,7-decafluoroheptan-3,5-dione (14.5 g., 4.80 mmole) and 85% phosphoric acid (50 ml.) is stirred at 90°-95° C. for 6 hours. When cool, the reaction mixture is poured into ice-water and neutralized with ammonium hydroxide to pH 7. The solid is collected, washed with water, dried, and can be purified by recrystallization from benzene.

reactant | 2,6-diamino pyridine | 4.76 mmole, 5.2 g | NC1=NC(=CC=C1)N | C5H7N3
reactant | 1,1,1,2,2,6,6,7,7,7-decafluoroheptan-3,5-dione | 4.80 mmole, 14.5 g | FC(C(C(CC(C(C(F)(F)F)(F)F)=O)=O)(F)F)(F)F | C7H2F10O2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | phosphoric acid | 50 ml | P(O)(O)(O)=O | H3O4P
product | 2-Amino-5,7-di(pentafluoroethyl)-1,8-naphthyridine | NC1=NC2=NC(=CC(=C2C=C1)C(C(F)(F)F)(F)F)C(C(F)(F)F)(F)F | C12H5F10N3
